US05877199
Methyl (9-Benzyl-1-methoxy-4-methylcarbazol-2-yl)acetate
120 mg of anhydrous pottasium carbonate and 0.14 ml of methyl iodide were added to 4 ml of a solution of 80 mg of methyl (9-benzyl-1-hydroxy-4-methylcarbazol-2-yl)acetate, as obtained in Example 219, in dimethyl formamide, at room temperature, and the reaction mixture was stirred for 1 hour. After this time, the reaction mixture was diluted with an excess of ethyl acetate, and then washed with a saturated aqueous solution of sodium chloride. The resulting organic layer was dried over anhydrous sodium sulfate and then the solvent was removed by evaporation under reduced pressure. The residue was subjected to column chromatography (eluent: a 15-20% v/v solution of ethyl acetate in hexane) to yield 84 mg of the title compound as a solid.

reactant | carbonate | 120 mg | C([O-])([O-])=O
reactant | methyl iodide | 0.14 ml | CI | CH3I
reactant | methyl (9-benzyl-1-hydroxy-4-methylcarbazol-2-yl)acetate | 80 mg | C(C1=CC=CC=C1)N1C2=CC=CC=C2C=2C(=CC(=C(C12)O)CC(=O)OC)C | C23H21NO3
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethyl formamide | CN(C=O)C | C3H7NO
product | Methyl (9-Benzyl-1-methoxy-4-methylcarbazol-2-yl)acetate | 84 mg | C(C1=CC=CC=C1)N1C2=CC=CC=C2C=2C(=CC(=C(C12)OC)CC(=O)OC)C | C24H23NO3
